US07199124B2
6-chloro-N-[5-(2-cyclopentylamino-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]nicotinamide
To a solution of [5-(2-cyclopentylamino-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine (0.50 g, 1.4 mmol) and 4-dimethylaminopyridine (0.052 g, 0.43 mmol) in N,N-dimethylacetamide (10 mL) was added 6-chloronicotinoyl chloride hydrochloride (0.46 g, 2.1 mmol), and the mixture was stirred at 80° C. for 14 hrs. Into the reaction mixture was poured aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate 4:1) and the resulting crystals were recrystallized from ethanol to give the title compound (0.30 g, yield 42%).

reactant | [5-(2-cyclopentylamino-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine | 1.4 mmol, 0.50 g | C1(CCCC1)NC1=NC=CC(=C1)C1=C(N=C(S1)N)C1=CC(=CC=C1)C | C20H22N4S
reactant | 6-chloronicotinoyl chloride hydrochloride | 2.1 mmol, 0.46 g | Cl.ClC1=NC=C(C(=O)Cl)C=C1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.43 mmol, 0.052 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 6-chloro-N-[5-(2-cyclopentylamino-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]nicotinamide | 0.30 g, yield 42% | ClC1=NC=C(C(=O)NC=2SC(=C(N2)C2=CC(=CC=C2)C)C2=CC(=NC=C2)NC2CCCC2)C=C1 | C26H24ClN5OS
